Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
In Graft stenosis
 
Major Surgical or Invasive Procedure:
OPERATION:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Ultrasound puncture of left common femoral vein.
3. Contralateral third-order catheterization of right
    external iliac artery.
4. Serial arteriogram of right lower extremity.
5. Cutting balloon angioplasty of midportion of vein bypass
    graft.
6. Cutting balloon angioplasty of distal anastomosis of
    vein bypass graft/anterior tibial artery interface.
7. Balloon angioplasty of both mid and distal portion of
    vein bypass graft.

 
History of Present Illness:
This is a ___ female, status
post prior right common femoral to anterior tibial artery
bypass with vein graft and prior angioplasty of vein graft in
the past, who was consented for angiogram with possible
angioplasty and stenting.

 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis, CKD, 
peripheral neuropathy  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms, 

recent MIBI ___ wnl 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
9. Autonomic Dysfunction
10.CKD II, baseline creat 1.3-1.5
11.PAD s/p recent fem-tib bypass RLE ___. Depression
13. DVT
14. ___ EGD ___. Orthostatic hypotension secondary to autonomic dysfunction 
16. PVD
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___
Father - coronary artery disease with MI in her ___, died at age 
___
 
Physical Exam:
VS: AF BP157/56 P73 RR18 O2 sats 96% on RA  
General - Alert and oriented to person, place and time; in no 
acute distress  
HEENT - normocephalic, atraumatic, pupils equal round reactive 
to light, extra-ocular muscles intact, moist mucous membranes  
Neck - No lymphadenopathy, no thyroid masses, + on the rt 
carotid bruit  
Chest - clear to auscultation bilaterally, no wheezes, rhonchi 
or crackles  
Heart - Reg rate and rhythm, s1 and s2 heard; soft SEM at the 
bases on the rt radiatinng to her sternal notch, JVP 5 cm  
Abd - active bowel sounds, soft, nontender, nondistended, no 
masses, no hepatosplenomegaly  
Extremities - No clubbing cyanosis or edema, dop pt and dp b/l, 
fem B/L 
Neuro: non focal, good reflex no delayed relaxation phase  

 
Pertinent Results:
___ 07:35AM BLOOD WBC-5.2 RBC-3.52* Hgb-11.0* Hct-33.6* 
MCV-95 MCH-31.2 MCHC-32.8 RDW-14.1 Plt ___
___ 07:35AM BLOOD Glucose-340* UreaN-22* Creat-1.3* Na-133 
K-4.6 Cl-97 HCO3-27 AnGap-14
___ 07:35AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.___  was admitted on ___  with  In Graft stenosis. 
Agreed to have an elective surgery. Pre-operatively, she was 
consented. A CXR, EKG, UA, CBC,  Electrolytes, T/S - were 
obtained,  all other preparations were  made.
 
It was decided that she would undergo:

OPERATION:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Ultrasound puncture of left common femoral vein.
3. Contralateral third-order catheterization of right
    external iliac artery.
4. Serial arteriogram of right lower extremity.
5. Cutting balloon angioplasty of midportion of vein bypass
    graft.
6. Cutting balloon angioplasty of distal anastomosis of
    vein bypass graft/anterior tibial artery interface.
7. Balloon angioplasty of both mid and distal portion of
    vein bypass graft
 
Prepped, and brought down to the endo suite room for  surgery. 
Intra-operatively, was closely monitored and remained 
hemodynamically stable. Tolerated the procedure well without any 
difficulty or complications.
 
Post-operatively, transferred to the PACU for further 
stabilization and monitoring. 

Sheths pulled with out difficulty
 
Was then transferred to the VICU for further recovery. While in 
the VICU,  received monitored care. When stable was delined. 
Diet was advanced.  
 
When stabilized from the acute setting of post operative care, 
was then transferred to floor status.
 
On the floor, remained hemodynamically stable with pain 
controlled. Continues to make steady progress without any 
incidents. 

Pt was found to  have a bllod sugar of 400, ___ was 
consulted, Lantus was given. Jolsin OK to go home. On DC BS 
stable. To note pt has insulin pump, this was empty.

Discharged home in stable condition.
 
Received preoperative hydration. On DC the creatinine is stable.

 
Medications on Admission:
Plavix 75; ASA 81; Insulin Novolog, Lantus 12 units qhs, Reglan, 
Lorazepam, Celexa 20. B12, MVI, Vitamin C, Fish Oil, ZOcor 40 
mg, Restasis eye drops, Erythromicin eye drops, gabapentin 800 
mg daily, levoxyl 75 mcg, Sodium Caltrate 
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain: prn.
Disp:*20 Tablet(s)* Refills:*0*
2. levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
6. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).  
8. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
9. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Lantus 100 unit/mL Solution Sig: One (1) 14 hs Subcutaneous 
at bedtime.  
11. insulin lispro 100 unit/mL Solution Sig: One (1) prn 
Subcutaneous three times a day.  
12. famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower extremity ischemia with claudication, status post 
prior right common femoral artery to anterior tibial artery 
bypass with vein graft.

Hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___